* 6L6 / 6L6GC — beam tetrode (~30 W, classic Fender / RCA / aerospace).
*
* Norman Koren pentode model (beam tetrode treated as pentode).
* Typical sample; refit per batch (T031).
*
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT 6L6 P G2 G K
* Koren parameters: MU=8.7 EX=1.35 KG1=1460 KG2=4500 KP=48 KVB=12
E1 7 0 VALUE={V(G2,K)/48*LN(1+EXP(48*(1/8.7+V(G,K)/V(G2,K))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.35)+sgn(V(7))*pwr(abs(V(7)),1.35))/1460 * ATAN(V(P,K)/12)}
G2 G2 K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.35)+sgn(V(7))*pwr(abs(V(7)),1.35))/4500}
C1 G K 10p
C2 G P 0.6p
C3 P K 6.5p
RGI G K 1MEG
.ENDS 6L6
